US09170487B2
A four-neck flask having an internal capacity of 1,000 mL and fitted with a stirrer, a dropping funnel and a thermometer was charged sequentially with 22.0 g of methyl 7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate and 450 g of methylene chloride, the temperature was cooled to 4° C., and 22.9 g (0.17 mol) of m-chloroperbenzoic acid was added gradually to the flask under constant stirring so that the temperature did not exceed 10° C. Following stirring for 4 hours at 5 to 7° C., 100 g of a saturated aqueous solution of sodium sulfite was added, and the resulting mixture was stirred for 30 minutes. After standing and separating, the organic layer was washed three times with 100 g samples of saturated sodium hydrogen carbonate. The organic layer was then concentrated under reduced pressure, yielding 20.2 g of methyl 2,3-epoxy-7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate.

reactant | methyl 7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate | 22.0 g | C12C=CC(C(C1)S(=O)(=O)OC)O2 | C7H10O4S
reactant | m-chloroperbenzoic acid | 0.17 mol, 22.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 450 g | C(Cl)Cl | CH2Cl2
product | methyl 2,3-epoxy-7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate | 20.2 g | O1C=2C3CC(C(C21)O3)S(=O)(=O)OC | C7H8O5S
